US07119115B2
0.09 cm3 of triethylamine is added to a suspension of 0.25 g of 6,6-diphenyl-1-(4-toluenesulphonyl)-6,7-dihydro-1H-indazol-3-carboxylic acid in 1.5 cm3 of toluene and 1.5 cm3 of tert-butanol. The solution obtained is heated to the reflux temperature and 0.12 cm3 of diphenylphosphonyl azide is added dropwise. Refluxing of the reaction mixture is continued for eight hours. After forty-eight hours at a temperature in the region of 20° C., the reaction mixture is concentrated to dryness under reduced pressure (13 kPa) and the residue is purified by flash chromatography on a column of silica [eluent: dichloromethane]. 0.06 g of tert-butyl [6,6-diphenyl-1-(4-toluenesulphonyl)-6,7-dihydro-1H-indazol-3-yl]carbamate is thus obtained in the form of a white foam, which is used directly, the characteristics of which are as follows:

reactant | triethylamine | 0.09 cm3 | C(C)N(CC)CC | C6H15N
reactant | 6,6-diphenyl-1-(4-toluenesulphonyl)-6,7-dihydro-1H-indazol-3-carboxylic acid | 0.25 g | C1(=CC=CC=C1)C1(C=CC=2C(=NN(C2C1)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)O)C1=CC=CC=C1 | C27H22N2O4S
reactant | diphenylphosphonyl azide | 0.12 cm3 | C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butanol | 1.5 cm3 | C(C)(C)(C)O | C4H10O
solvent | toluene | 1.5 cm3 | C1(=CC=CC=C1)C | C7H8
product | tert-butyl [6,6-diphenyl-1-(4-toluenesulphonyl)-6,7-dihydro-1H-indazol-3-yl]carbamate | 0.06 g | C1(=CC=CC=C1)C1(C=CC=2C(=NN(C2C1)S(=O)(=O)C1=CC=C(C=C1)C)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C31H31N3O4S
